US04134983
A solution of 2-[4-(2,3-epoxypropoxy)phenyl]-trifluoromethylimidazole (2.5 g.) in tert. butylamine (20 ml.) is heated 6 hours at reflux. The excess tert. butylamine is removed by distillation at atmospheric pressure over steam. The residue is triturated with nitromethane (5 ml.) and the resulting solid removed by filtration. After recrystallization from acetonitrile, (1.2 g.) of 2-[4-(3-tert. butylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole is obtained, m.p. 185.5°-186.5° C.

reactant | 2-[4-(2,3-epoxypropoxy)phenyl]-trifluoromethylimidazole | 2.5 g | O1C(COC2=CC=C(C=C2)C=2NC=C(N2)C(F)(F)F)C1 | C13H11F3N2O2
reactant | tert. butylamine | 20 ml | C(C)(C)(C)N | C4H11N
product | 2-[4-(3-tert. butylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole | 1.2 g | C(C)(C)(C)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F)O | C17H22F3N3O2
